US08003785B2
To a mixture of 54 g (0.45 mole) benzotriazole and 51.5 mL (0.45 mole) of cyclohexylamine in 2000 mL of ether was added dropwise 36.5 mL (0.45 mole) of 37% aqueous formaldehyde. The reaction mixture was stirred at room temperature for 18 hours. The mixture was dried over calcium chloride, filtered and concentrated under reduced pressure. 200 mL of hexanes was added to the residue and the resulting solid collected by filtration, washed with 300 mL of hexane to give 90.0 g of benzotriazol-1-ylmethyl-cyclohexylamine as a white solid.

reactant | benzotriazole | 0.45 mole, 54 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | cyclohexylamine | 0.45 mole, 51.5 mL | C1(CCCCC1)N | C6H13N
reactant | formaldehyde | 0.45 mole, 36.5 mL | C=O | CH2O
solvent | ether | 2000 mL | CCOCC | C4H10O
product | benzotriazol-1-ylmethyl-cyclohexylamine | 90.0 g | N1(N=NC2=C1C=CC=C2)CNC2CCCCC2 | C13H18N4
